* Z:\mnt\design.r\spice\examples\1209.asc
V1 +V 0 15
V2 -V 0 -15
R1 N002 N001 909
V3 IN 0 AC 1
C1 N002 N004 47p
R2 N004 N001 2.67K
R3 N001 IN 909
C2 N001 0 220p
R4 OUT N003 1.1K
C3 OUT N005 22p
R5 N005 N003 2.21K
C4 N003 0 470p
R6 N003 N002 1.1K
XU1 0 N004 +V -V N002 LT1208
XU2 0 N005 +V -V OUT LT1208
.ac oct 10 1 100Meg
* 1Mhz, 4th Order Butterworth Filter
.lib LTC.lib
.backanno
.end
